US05500297
Diethyl 2-bromoethylphosphonate (25 g) and 4,4' bipyridine (7.35 g) in 125 mLs of water are refluxed for three days. An equal volume of concentrated hydrochloric acid is added and reflux continued for several hours. The solution is concentrated to 120 mLs by atmospheric distillation and 550 mL of isopropanol are added dropwise with stirring while chilling the mixture in an ice bath. The solid which forms is collected by vacuum filtration and washed with cold isopropanol to yield 1,1'-bisphosphonoethyl-4,4'-bipyridinium dichloride. (1H NMR (D2O) 9.1(d), 8.5(d), 4.2(m), 2.0(m) ppm; 13C NMR(D2O) 151, 147, 128, 58, 30 ppm; 31P NMR(D2O) 17.8 (s) ppm; IR (KBr) 3112, 3014, 1640, 1555, 1506, 1443, 1358, 1281, 1175, 1112, 1020, 936, 816, 485 cm31 1.)

reactant | Diethyl 2-bromoethylphosphonate | 25 g | BrCCP(OCC)(OCC)=O | C6H14BrO3P
reactant | 4,4' bipyridine | 7.35 g | N1=CC=C(C=C1)C1=CC=NC=C1 | C10H8N2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 125 mLs | O | H2O
product | 1,1'-bisphosphonoethyl-4,4'-bipyridinium dichloride | [Cl-].[Cl-].P(=O)(O)(O)CC[N+]1=CC=C(C=C1)C1=CC=[N+](C=C1)CCP(=O)(O)O | InChI=1S/C14H18N2O6P2.2ClH/c17-23(18,19)11-9-15-5-1-13(2-6-15)14-3-7-16(8-4-14)10-12-24(20,21)22;;/h1-8H,9-12H2,(H2-2,17,18,19,20,21,22);2*1H
